US05516783
A solution of 2-(3,4-dimethoxyphenylmercapto)ethanoic acid (1.71 g, 7.5 mmol), N-methylmorpholine (0.99 ml, 9.0 mmol), N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (1.87 g, 9.7 mmol) and pentafluorophenol (2.76 g, 15.0 mmol) in DCM (100 ml) was stirred at room temperature overnight. The solution was washed with 2M hydrochloric acid, saturated aqueous sodium hydrogen carbonate and brine, dried, filtered and concentrated to give crude pentafluorophenyl 2-(3,4-dimethoxyphenylmercapto)ethanoate (2.95 g, 99%) as pink oil which was used directly in the next step.

reactant | 2-(3,4-dimethoxyphenylmercapto)ethanoic acid | 7.5 mmol, 1.71 g | COC=1C=C(C=CC1OC)SCC(=O)O | C10H12O4S
reactant | N-methylmorpholine | 9.0 mmol, 0.99 ml | CN1CCOCC1 | C5H11NO
reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 9.7 mmol, 1.87 g | Cl.CN(CCCN=C=NCC)C
reactant | pentafluorophenol | 15.0 mmol, 2.76 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | pentafluorophenyl 2-(3,4-dimethoxyphenylmercapto)ethanoate | 2.95 g, 99% | COC=1C=C(C=CC1OC)SCC(=O)OC1=C(C(=C(C(=C1F)F)F)F)F | C16H11F5O4S
